US06358980B1
4-(4-but-2-ynyloxy benzenesulfonyl)-N-hydroxy-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxamide was prepared following the procedure Example 64 (step 6). Starting from 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxylic acid (145 mg, 0.31 mmol) in dimethylformamide (3 ml), 1-hydroxybenzotriazole (50 mg, 0.37 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (83 mg, 0.47 mmol), N-methylmorpholine (0.051 ml, 0.47 mmol), and hydroxylamine (0.095 ml, 1.55 mmol), 90 mg (60%) of the product was isolated as a solid. HR-MS: m/z Calculated for C17H19F3N2O7S2 485.0659; Found 485.0666.

reactant | 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxylic acid | 0.31 mmol, 145 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C(F)(F)F)C(=O)O | C17H18F3NO7S2
reactant | 1-hydroxybenzotriazole | 0.37 mmol, 50 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.47 mmol, 83 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.47 mmol, 0.051 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 1.55 mmol, 0.095 ml | NO | H3NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-(4-but-2-ynyloxy benzenesulfonyl)-N-hydroxy-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C(F)(F)F)C(=O)NO | C17H19F3N2O7S2
